US08461185B2
3-(5-Methylpyridin-2-yl)-5-[(5R)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]-N-{(1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide
To a solution of 3-(5-methylpyridin-2-yl)-5-[(5R)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid trifluoroacetate salt (1.14 g, 1.94 mmol) in N,N-dimethylformamide (10 mL) were added (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]etanamine hydrochloride salt (0.77 g, 2.91 mmol), EDC (0.74 g, 3.88 mmol), HOAT (0.26 g, 1.94 mmol) and triethylamine (1.62 mL, 11.6 mmol). The reaction mixture was stirred at 40° C. After 3.5 h, the mixture was cooled to ambient temperature and saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Ethyl acetate (50 mL) was added the suspension was filtered. The solid was dried under reduced pressure gave 350 mg of the title compound. The filtrate was concentrated and purified by reverse phase HPLC(C-18, 95% water/acetonitrile→40% water/acetonitrile with 0.1% trifluoroacetic acid) gave another 200 mg of the title compound (550 mg total). HRMS 532.1970 (M+1). 1H NMR (400 MHz, CDCl3): δ 8.76 (s, 1H); 8.55 (d, J=4.8 Hz, 1H); 8.45 (s, 1H); 8.38 (s, 2H); 8.08 (s, 1H); 7.86 (d, J=8.2 Hz, 1H); 7.73-7.59 (m, 3H); 7.53 (dd, J=18.7, 7.9 Hz, 2H); 7.23-7.18 (m, 1H); 6.85 (d, J=7.0 Hz, 1H); 5.86 (dd, J=10.5, 7.3 Hz, 1H); 5.42-5.32 (m, 1H); 3.88-3.74 (m, 2H); 2.35 (s, 3H); 1.65 (d, J=7.1 Hz, 3H).

reactant | 3-(5-methylpyridin-2-yl)-5-[(5R)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]benzoic acid trifluoroacetate salt | 1.94 mmol, 1.14 g | FC(C(=O)O)(F)F.CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C1=NO[C@H](C1)C1=NC=CC=C1
reactant | (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]etanamine hydrochloride salt | 2.91 mmol, 0.77 g | Cl.FC(C1=CC=C(C=N1)[C@@H](C)N)(F)F
reactant | EDC | 3.88 mmol, 0.74 g
reactant | HOAT | 1.94 mmol, 0.26 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 11.6 mmol, 1.62 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(5-Methylpyridin-2-yl)-5-[(5R)-5-pyridin-2-yl-4,5-dihydroisoxazol-3-yl]-N-{(1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}benzamide | 350 mg | CC=1C=CC(=NC1)C=1C=C(C(=O)N[C@H](C)C=2C=NC(=CC2)C(F)(F)F)C=C(C1)C1=NO[C@H](C1)C1=NC=CC=C1 | C29H24F3N5O2
